US06562811B1
To a cooled (0° C.) solution of tert-butyl 2′-amino-3′-(hydroxymethyl)-6′-{2-[(4-methoxybenzyl)oxy]phenyl}-5,6-dihydro-3,4′-bipyridine-1(2H)-carboxylate (25.0 mg, 0.05 mmol), which was obtained in the step (2) of Example 11-4, and triethylamine (0.02 mL, 0.14 mmol) in THF (3.0 mL) was added a solution of triphosgene (5.7 mg, 0.02 mmol) in THF (3.0 mL), and the stirring was continued for 30 min. The reaction mixture was allowed to warm to room temperature. The reaction was cooled to 0° C. and then quenched by an addition of saturated aqueous NaHCO3 solution, extracted with ethyl acetate. The separated organic phase was washed with brine, dried over MgSO4, filtered and evaporated. The crude product was purified by preparative silica gel TLC (10% acetone in chloroform) to give tert-butyl 5-(7-{2-[(4-methoxybenzyl)oxy]phenyl}-2-oxo-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate as a white solid. (21.7 mg, yield 83%).

reactant | tert-butyl 2′-amino-3′-(hydroxymethyl)-6′-{2-[(4-methoxybenzyl)oxy]phenyl}-5,6-dihydro-3,4′-bipyridine-1(2H)-carboxylate | 0.05 mmol, 25.0 mg | NC1=NC(=CC(=C1CO)C=1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)OCC1=CC=C(C=C1)OC | C30H35N3O5
reactant | triethylamine | 0.14 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.02 mmol, 5.7 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | tert-butyl 5-(7-{2-[(4-methoxybenzyl)oxy]phenyl}-2-oxo-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate | yield 83% | COC1=CC=C(COC2=C(C=CC=C2)C=2C=C(C3=C(NC(OC3)=O)N2)C2=CCCN(C2)C(=O)OC(C)(C)C)C=C1 | C31H33N3O6
